Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea, elevated blood pressures
 
Major Surgical or Invasive Procedure:
classical cesarean delivery at ___ gestational age
blood transfusions

 
History of Present Illness:
___ G1P0 at ___ by LMP ___ ___ ___ took her blood 
pressure at work yesterday and noted 150/90 but felt well. Woke 
up this morning with diarrhea and sharp constant epigastric pain 
with nausea, has vomited once. 5 episodes of watery diarrhea. No 
HA, no visual changes, no SOB. +AFM, no VB, no LOF.

She initially presented to the ED where she was found to be 
hypertensive so was transferred to Labor and Delivery for 
further evaluation.

No history of HTN. Has been followed for history of LEEP ___, 
normal Paps since. Per pt normal cervical length at last visit 3 
weeks ago.

PNC: 
___ ___ by ___ c/w ultrasounds
Labs B+/abs-/RI/RPRNR/HBsAg-/nl hemoglobin
 
Past Medical History:
PMH: denies
PSH: LEEP, no history of HSV
All: Latex
 
Social History:
works as a ___ on a postpartum floor, denies ___
 
___ Exam:
In ED
Temp:97.8 HR:63 BP:152/96 Resp:18 O(2)Sat:100 Normal

Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, neck supple
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and second 
heart sounds
mild xyphoid tenderness
Abdominal: gravid, soft, mild mid-epigastric tenderness to 
palpation
Extr/Back: no back tenderness; no swelling of the ankles, arms
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

On Labor and Delivery
ED BP ___, 159/100
Here 145/91, 154/89
HR 56 T 97.5 RR 18

Pt curled on L side. Points to epigastric area just above fundus 
as area of pain. 
Lungs/CV wnl
Abd soft, ND, mildly tender epigastric, no uterine tenderness, 
fundus ~5-6cm above umbilicus
SVE long/closed/soft

FHT 140s/mod var
Toco ?irritability vs ctx
 
Pertinent Results:
___ 07:40AM BLOOD WBC-8.9 RBC-4.68 Hgb-10.9* Hct-34.2* 
MCV-73* MCH-23.2* MCHC-31.9 RDW-15.0 Plt ___
___ 03:00PM BLOOD WBC-8.2 RBC-4.40 Hgb-9.8* Hct-31.6* 
MCV-72* MCH-22.4* MCHC-31.2 RDW-15.2 Plt ___
___ 09:19PM BLOOD WBC-11.8* RBC-4.89 Hgb-11.2* Hct-34.3* 
MCV-70* MCH-22.8* MCHC-32.5 RDW-15.4 Plt ___
___ 05:50AM BLOOD WBC-11.0 RBC-4.74 Hgb-10.6* Hct-33.0* 
MCV-70* MCH-22.3* MCHC-32.0 RDW-16.4* Plt Ct-54*#
___ 07:53AM BLOOD WBC-10.3 RBC-4.82 Hgb-11.2* Hct-34.1* 
MCV-71* MCH-23.2* MCHC-32.8 RDW-16.7* Plt Ct-54*
___ 11:15AM BLOOD WBC-9.1 RBC-4.77 Hgb-10.6* Hct-33.1* 
MCV-69* MCH-22.2* MCHC-31.9 RDW-17.1* Plt Ct-48*
___ 03:20PM BLOOD Hct-29.3* Plt Ct-36*
___ 07:00PM BLOOD WBC-12.6* RBC-3.48*# Hgb-8.1* Hct-24.0* 
MCV-69* MCH-23.1* MCHC-33.7 RDW-17.6* Plt Ct-27*
___ 11:13PM BLOOD WBC-17.8* RBC-3.10* Hgb-7.1* Hct-21.1* 
MCV-68* MCH-22.8* MCHC-33.6 RDW-18.2* Plt Ct-65*#
___ 03:02AM BLOOD WBC-17.6* RBC-3.00* Hgb-6.7* Hct-20.7* 
MCV-69* MCH-22.5* MCHC-32.5 RDW-17.9* Plt Ct-51*
___ 07:05AM BLOOD WBC-20.0* RBC-2.99* Hgb-6.7* Hct-20.5* 
MCV-68* MCH-22.5* MCHC-32.9 RDW-18.5* Plt Ct-45*
___ 12:55PM BLOOD WBC-21.2* RBC-2.70* Hgb-6.1* Hct-18.4* 
MCV-68* MCH-22.7* MCHC-33.4 RDW-18.6* Plt Ct-46*
___ 07:46PM BLOOD WBC-22.3* RBC-3.38*# Hgb-8.2*# Hct-24.2*# 
MCV-72* MCH-24.3* MCHC-33.8 RDW-19.3* Plt Ct-48*
___ 08:50AM BLOOD WBC-23.4* RBC-3.34* Hgb-8.4* Hct-24.4* 
MCV-73* MCH-25.1* MCHC-34.4 RDW-19.3* Plt Ct-60*
___ 05:45AM BLOOD WBC-21.1* RBC-3.41* Hgb-8.3* Hct-25.6* 
MCV-75* MCH-24.4* MCHC-32.5 RDW-20.1* Plt Ct-73*

___ 07:40AM BLOOD Neuts-71.3* ___ Monos-3.6 Eos-1.7 
Baso-0.3
___ 08:23AM BLOOD ___ PTT-23.2 ___
___ 07:53AM BLOOD ___ PTT-28.9 ___
___ 11:15AM BLOOD ___ PTT-28.6 ___
___ 02:21PM BLOOD ___ PTT-29.5 ___
___ 07:00PM BLOOD ___ PTT-24.0 ___
___ 11:13PM BLOOD ___ PTT-23.5 ___
___ 03:02AM BLOOD ___ PTT-23.5 ___
___ 07:05AM BLOOD ___ PTT-23.3 ___
___ 12:55PM BLOOD ___ PTT-21.2* ___
___ 08:50AM BLOOD ___ PTT-20.6* ___
___ 05:45AM BLOOD ___ PTT-19.7* ___

___ 08:23AM BLOOD ___
___ 03:00PM BLOOD ___
___ 09:19PM BLOOD ___
___ 07:53AM BLOOD ___ 11:15AM BLOOD ___ 02:21PM BLOOD ___ 07:00PM BLOOD ___ 11:13PM BLOOD ___ 03:02AM BLOOD ___ 07:05AM BLOOD ___
___ 12:55PM BLOOD ___ 08:50AM BLOOD ___ 05:45AM BLOOD ___ 07:40AM BLOOD Glucose-76 UreaN-11 Creat-0.7 Na-141 
K-4.3 Cl-106 HCO3-25 AnGap-14
___ 03:00PM BLOOD Creat-0.7
___ 09:19PM BLOOD Creat-0.7
___ 05:50AM BLOOD Creat-0.7
___ 07:53AM BLOOD Glucose-74 UreaN-12 Creat-0.7 Na-137 
K-3.9 Cl-103 HCO3-24 AnGap-14
___ 11:15AM BLOOD UreaN-11 Creat-0.7
___ 03:20PM BLOOD UreaN-15 Creat-0.9
___ 07:00PM BLOOD Creat-1.0
___ 11:13PM BLOOD Glucose-105* UreaN-18 Creat-1.1 Na-131* 
K-4.3 Cl-99 HCO3-22 AnGap-14
___ 03:02AM BLOOD Creat-1.1 Na-132* K-4.4 Cl-98
___ 07:05AM BLOOD Creat-1.1
___ 12:55PM BLOOD Glucose-96 UreaN-22* Creat-1.1 Na-131* 
K-4.4 Cl-99 HCO3-24 AnGap-12
___ 05:45AM BLOOD Glucose-95 UreaN-17 Creat-1.2* Na-139 
K-4.1 Cl-105 HCO3-25 AnGap-13
___ 05:50AM BLOOD Glucose-72 UreaN-15 Creat-1.1 Na-140 
K-4.5 Cl-109* HCO3-25 AnGap-11

___ 07:40AM BLOOD ALT-6 AST-15 LD(___)-189 AlkPhos-99 
TotBili-0.2
___ 03:00PM BLOOD ALT-16 AST-37
___ 09:19PM BLOOD ALT-40 AST-91*
___ 05:50AM BLOOD ALT-148* AST-380*
___ 07:53AM BLOOD ALT-163* AST-457* LD(___)-3060* 
TotBili-4.9*
___ 11:15AM BLOOD ALT-154* AST-493* LD(___)-3455* 
TotBili-5.1* DirBili-0.9* IndBili-4.2
___ 03:20PM BLOOD ALT-136* AST-442*
___ 07:00PM BLOOD ALT-116* AST-382* LD(___)-3130* 
TotBili-3.6*
___ 11:13PM BLOOD ALT-99* AST-326* LD(___)-2650* 
TotBili-3.4*
___ 03:02AM BLOOD ALT-92* AST-272*
___ 07:05AM BLOOD ALT-84* AST-216*
___ 12:55PM BLOOD ALT-78* AST-166* LD(___)-1714* 
TotBili-1.8*
___ 08:50AM BLOOD ALT-70* AST-90*
___ 05:45AM BLOOD ALT-53* AST-52*

___ 07:40AM BLOOD Lipase-29
___ 11:15AM BLOOD Lipase-101*
___ 07:40AM BLOOD UricAcd-4.9
___ 03:00PM BLOOD UricAcd-4.3
___ 09:19PM BLOOD UricAcd-4.3
___ 05:50AM BLOOD UricAcd-4.5
___ 07:53AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.8 UricAcd-4.6
___ 11:15AM BLOOD Albumin-3.4* Mg-6.2* UricAcd-4.8
___ 03:20PM BLOOD UricAcd-4.8
___ 07:00PM BLOOD Mg-8.1* UricAcd-5.2
___ 11:13PM BLOOD Calcium-7.3* Phos-5.3*# Mg-8.1* 
UricAcd-5.5
___ 03:02AM BLOOD Mg-6.2* UricAcd-5.6
___ 07:05AM BLOOD UricAcd-5.5
___ 12:55PM BLOOD Calcium-7.3* Phos-4.5 Mg-5.5* UricAcd-5.6
___ 05:45AM BLOOD Calcium-7.7* Phos-3.3 Mg-3.0*

___ 07:53AM BLOOD Hapto-<5*

___ 07:53AM BLOOD HBsAg-NEGATIVE IgM HAV-NEGATIVE
___ 07:53AM BLOOD HCV Ab-NEGATIVE

___ 02:39PM BLOOD Glucose-105 Lactate-2.2* Na-131* K-4.5 
Cl-100

___ 12:45PM URINE 24Creat-1092 24Prot-4290
___ 10:39AM URINE Hours-RANDOM Creat-84 TotProt-43 
Prot/Cr-0.5*
___ 12:45PM URINE pH-7 Hours-24 Volume-3900 Creat-28 
TotProt-110 Prot/Cr-3.9*

___ 11:35 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 
   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

 
Brief Hospital Course:
Ms ___ was admitted to the antepartum service with elevated 
blood pressures.  She was started on nifedipine and a 24-hour 
urine collection was begun. Upon transfer to the antepartum 
floor she complained of a headache and had elevated blood 
pressures, so she was brought back to Labor and Delivery for 
closer monitoring. Labs revealed low platelets and transaminitis 
as well as new hematuria. One dose of betamethasone was given 
and neonatology was consulted. Her blood pressures continued to 
be elevated and she was begun on a magnesium drip. Repeat labs 
revealed worsening transaminases and decreasing platelets. Her 
epigastric pain continued, and the decision was made to proceed 
with delivery given her worsening clinical status. On hospital 
day #2 Ms ___ underwent classical cesarean delivery; see 
operative report for complete details of the case. 

Ms ___ was kept on a magnesium drip for 24 hours postpartum. 
Given her initial presenting symptoms of vomiting and diarrhea, 
as well as her hemolysis and thrombocytopenia, hematology was 
consulted and found her clinical picture to be most consistent 
with HELLP syndrome. A stool culture was negative.

For her thrombocytopenia Ms ___ received 1 unit of platelets 
intraoperatively and a second unit of platelets on labor and 
delivery, as well as 2 doses of dexamethasone. Her platelet 
count nadired at 27,000 on postpartum day #0 and subsequently 
stabilized and improved over her hospitalization. She was never 
coagulopathic. 

Ms ___ also had hemolysis as well as blood loss anemia and 
on postpartum day #1 received 2 units of packed red blood cells 
with an appropriate rise in her hematocrit from 18.4% to 24.2%. 
Her LDH improved beginning on the evening of postpartum day #0, 
as did her trasaminitis and hyperbilirubinemia. 

On postpartum day #1 Ms ___ was transferred to the 
postpartum floor, where her labs and symptoms continued to 
improve. Her blood pressures were within goal on 200mg labetalol 
TID. Her pain was managed initially with a Dilaudid PCA and then 
with oxycodone, Tylenol, and gabapentin, and she was advised to 
avoid NSAIDs. Her postoperative course was subsequently 
unremarkable, and she was discharged home in stable condition on 
postpartum day #4. 
 
Medications on Admission:
folic acid
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*0*
2. labetalol 200 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*90 Tablet(s)* Refills:*2*
3. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).
Disp:*240 Tablet(s)* Refills:*2*
4. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
5. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).
Disp:*180 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
HELLP syndrome
severe preeclampsia
classical cesarean delivery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please refer to separate discharge instruction sheet
 
Followup Instructions:
___